US07279469B2
4,6-dichloropyrimidine, (2 g, 13.4 mmol), and N-methylpiperazine, (1.5 mL, 13.4 mmol), were dissolved in 20 mL THF along with TEA (1.9 mL, 13.4 mmol) and stirred for 18 h. The THF was evaporated and 10 mL water was added and then extracted with DCM. The DCM was dried with sodium sulfate, filtered and evaporated affording 2.4 g of 4-Chloro-6-(4-methyl-piperazin-1-yl)-pyrimidine as a yellow waxy solid which was used without further purification.

reactant | 4,6-dichloropyrimidine | 13.4 mmol, 2 g | ClC1=NC=NC(=C1)Cl | C4H2Cl2N2
reactant | N-methylpiperazine | 13.4 mmol, 1.5 mL | CN1CCNCC1 | C5H12N2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-Chloro-6-(4-methyl-piperazin-1-yl)-pyrimidine | 2.4 g | ClC1=NC=NC(=C1)N1CCN(CC1)C | C9H13ClN4
